US08558000B2
To a reactor was added 24 g of 3-chloro-2-(diphenylmethyleneamino) pyridin-4(1H)-one, DMF (100 mL), cesium carbonate (12.7 g; 0.5 eq) and difluoronitrobenzene (9.3 mL; 1.1 eq). The reaction mixture was heated to 95° C. and stirred for three hours. After the reaction was complete, the reaction mixture was poured onto crushed ice and the solids were filtered off and washed with water. The crude solids were charged back to the reactor and dissolved in THF (200 mL). Methanol was added and the mixture was distilled at a constant volume of 350 mL, until THF had been azeotropically removed. Additional methanol (100 mL) was added and the suspension was cooled to room temperature. The solids were filtered and dried under vacuum to yield 3-Chloro-N-(diphenylmethylene)-4-(2-fluoro-4-nitrophenoxy)pyridin-2-amine (23.3 g; 67% yield).

reactant | 3-chloro-2-(diphenylmethyleneamino) pyridin-4(1H)-one | 24 g | ClC1=C(NC=CC1=O)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H13ClN2O
reactant | cesium carbonate | 12.7 g, 0.5 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | difluoronitrobenzene | 9.3 mL, 1.1 eq | FC=1C(=C(C=CC1)[N+](=O)[O-])F | C6H3F2NO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-Chloro-N-(diphenylmethylene)-4-(2-fluoro-4-nitrophenoxy)pyridin-2-amine | 23.3 g, 67% yield | ClC=1C(=NC=CC1OC1=C(C=C(C=C1)[N+](=O)[O-])F)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H15ClFN3O3
